US07435744B2
2-[4-(4-Fluoro-phenoxy)-piperidin-1-yl]-2-oxo-N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (45 70002365)
The title compound is prepared from [4-(4-fluoro-phenoxy)-piperidin-1-yl]-oxo-acetic acid and 5-amino-1,3-dihydro-indol-2-one according to the method described in Example 2. The filtered crystals are purified by column chromatography using Kieselgel 60 (Merck) as adsorbent and toluene:methanol=4:1 as eluent. Melting Point: 209-211° C. (diethyl ether)

reactant | [4-(4-fluoro-phenoxy)-piperidin-1-yl]-oxo-acetic acid | FC1=CC=C(OC2CCN(CC2)C(C(=O)O)=O)C=C1 | C13H14FNO4
reactant | 5-amino-1,3-dihydro-indol-2-one | NC=1C=C2CC(NC2=CC1)=O | C8H8N2O
product | 2-[4-(4-Fluoro-phenoxy)-piperidin-1-yl]-2-oxo-N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | FC1=CC=C(OC2CCN(CC2)C(C(=O)NC=2C=C3CC(NC3=CC2)=O)=O)C=C1 | C21H20FN3O4
